US07932380B2
To a solution of 15.8g of sucralose-6-acetate and 120g of methanol was added by 0.15g of sodium methoxide. The reaction mixture was stirred at 30° for 4 hours. Then, the reaction mixture was neutralized to pH7, filtered and then the filtrate was decolored with activated carbon and concentrated under vacuum condition to afford the crude sucralose. The crude was recrystallized from water to afford 9.5g of pure sucralose with over 99% purity.

reactant | sucralose-6-acetate | 15.8g | CC(=O)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CCl)O)O)CCl)O)O)Cl | C14H21Cl3O9
reactant | sodium methoxide | 0.15g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | sucralose | 9.5g | C([C@H]1[C@@H]([C@@H]([C@@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CCl)O)O)CCl)O)O)Cl)O | C12H19Cl3O8
